US09334269B2
3-(4-Chlorophenyl)-[1,2,4]triazolo[4,3-a]pyrazine (2.01 g) was hydrogenated under atmospheric hydrogen with 10% Pd/C (400 mg Celite® (diatomaceous earth)) as a catalyst in ethanol (20 mL) at RT for 18 h. The reaction mixture was filtered through and concentrated. Purification by flash chromatography (silica gel, 10% methanol/dichloromethane) afforded 3-(4-chlorophenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine (86% yield) as a viscous oil.

reactant | 3-(4-Chlorophenyl)-[1,2,4]triazolo[4,3-a]pyrazine | 2.01 g | ClC1=CC=C(C=C1)C1=NN=C2N1C=CN=C2 | C11H7ClN4
catalyst | Pd/C | 400 mg | [Pd] | Pd
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-(4-chlorophenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine | 86% yield | ClC1=CC=C(C=C1)C1=NN=C2N1CCNC2 | C11H11ClN4
